US04229350
2,10-Dichloro-12H-dibenzo[d,g][1,3,6]dioxazocine
A suspension of 4.1 g. (0.01 moles) of (2-bromo-4-chlorophenoxy)-(2-formamido-4-chlorophenoxy)-methane (m.p.: 148° to 149° C.), 2.1 g. (0.015 moles) of potassium carbonate, 0.5 g. (0.008 gatom) of copper powder and 30 ml. of Dowtherm(R)A is heated up to 190° C. and is kept at this temperature for 10 hours, while stirred vigorously. Thereafter the reaction mixture is filtered and from the filtrate the solvent is distilled off in vacuo. The remaining tar is boiled in a mixture of 45 ml. of ethanol and 4.5 ml. of a 20% aqueous sodium hydroxide solution for one hour, then cooled to 20° C. It is then neutralized with a 37% aqueous hydrochloric acid solution and the solvent is eliminated. The residue is extracted three times with 80 ml. portions each of hot cyclohexane, the combined extracts are decoloured while hot and the solvent is eliminated. Recrystallization of the crude product from carbon tetrachloride affords a white product weighing 0.6 g. (21.4%) and melting at 194° to 196° C.

reactant | (2-bromo-4-chlorophenoxy)-(2-formamido-4-chlorophenoxy)-methane | 0.01 moles | BrC1=C(OCOC2=C(C=C(C=C2)Cl)NC=O)C=CC(=C1)Cl | C14H10BrCl2NO3
reactant | potassium carbonate | 0.015 moles | C([O-])([O-])=O.[K+].[K+]
reactant | Dowtherm(R)A | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
catalyst | copper | [Cu] | Cu
product | 2,10-Dichloro-12H-dibenzo[d,g][1,3,6]dioxazocine | ClC1=CC2=C(OCOC3=C(N2)C=C(C=C3)Cl)C=C1 | C13H9Cl2NO2
